datasets/RMG-dataset.csv
rxn,Ea
[C:1]1([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1([C:12]1([H:14])[C:15]([H:16])[C:17]([H:18])=[C:19]([H:20])[C:21]1([H:23])[H:24])[H:25]>>[C:1]1([H:3])[C:4]([H:5])=[C:6]([H:7])[C:8]2([H:9])[C:10]1([H:25])[C:15]1([H:16])[C:12]2([H:14])[C:21]([H:23])([H:24])[C:19]([H:20])=[C:17]1[H:18],64.4336
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([C:8]([H:12])([H:13])[H:14])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:9])[H:4].[C:7]([C:8]([H:12])([H:13])[H:14])([H:10])[H:11],34.7272
[C:0](=[C:1]([H:3])[H:4])[H:2].[H:5][H:6]>>[C:0](=[C:1]([H:3])[H:4])([H:2])[H:6].[H:5],21.0455
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[S:13]=[C:14][S:15][H:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:14](=[S:13])[S:15][H:16],18.828
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[I:8]>>[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])([H:4])[I:8],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][C:19](=[O:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:17][O:18][C:19](=[O:20])[H:21],61.96504
[C:0](=[C:1]1[C:2]2([H:9])[C:3]([H:10])[C:4]([H:11])=[C:5]([H:12])[C:6]12[H:13])([H:7])[H:8]>>[C:0](=[C:1][C:6]1([H:13])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:7])[H:8],80.9604
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](#[C:12][C:13]([C:14]([H:17])([H:18])[H:19])[C:15]([H:20])([H:21])[H:22])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:13]([C:12]#[C:11][H:16])([C:14]([H:17])([H:18])[H:19])[C:15]([H:20])([H:21])[H:22])[C:4]([H:8])([H:9])[H:10])[H:5],20.3342
[H:7][H:8].[S:0]=[C:1]([C:2]([S:3][H:6])[H:5])[H:4]>>[H:7].[S:0]=[C:1]([C:2]([S:3][H:6])([H:5])[H:8])[H:4],151.544
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:19]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][H:19],18.828
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([S:9][H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:8]([S:9][H:12])([H:10])[H:11],35.9824
[C:0](#[C:1][C:2]1([H:8])[C:3]=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11])[H:7]>>[C:0](#[C:1][C:3]1=[C:4]([H:9])[C:5]([H:10])=[C:6]([H:11])[C:2]1[H:8])[H:7],94.47472
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:11]([C:10](=[C:9]([H:13])[H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16],112.591
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:23])([H:24])[H:25])=[C:13]([c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])[H:26])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:13]([C:11]([C:10](=[C:9]([H:20])[H:21])[H:22])[C:12]([H:23])([H:24])[H:25])([c:14]1[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]1[H:31])[H:26])[H:4],34.6017
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([C:12]([S:13][H:24])([c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:23])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:23])[H:6].[C:11]([C:12]([S:13][H:24])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])([H:20])([H:21])[H:22],13.3888
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[C:8]([H:9])([H:10])[H:11]>>[C:0]([C:1](=[N:2])[H:6])([H:3])([H:4])[H:5].[H:7][C:8]([H:9])([H:10])[H:11],29.802632
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[C:29]([H:30])([H:31])[H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:18][C:29]([H:30])([H:31])[H:32],22.92832
[N:0]([C:1]([C:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[C:3](=[C:4]([O:5][H:8])[H:14])([H:12])[H:13].[N:0]([C:1](=[C:2]([H:10])[H:11])[H:9])([H:6])[H:7],221.139
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]=[C:10]([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:8](=[C:9]=[C:10]([H:12])[H:13])[H:11],85.8557
